US05124331
3,4-Dihydro-(2-chlorophenyl)-2-hydroxymethyl-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine
To 9.3 g of 3,4-dihydro-2-acetoxymethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine were added 200 ml of methanol, 30 ml of water and 14.3 ml of conc. hydrochloric acid, and the mixture was stirred under reflux for 2 hours. The reaction mixture was concentrated, and the residue was crystallized from methanol to give 6.2 g of pale yellow crystals, which was recrystallized from methanol to afford 2.6 g of the title compound, m.p. 259° C. (decomposition).

reactant | 3,4-dihydro-2-acetoxymethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine | 9.3 g | C(C)(=O)OCC=1N(C(C2=C(N1)SC(=C2)S(N)(=O)=O)=O)C2=C(C=CC=C2)Cl | C15H12ClN3O5S2
reactant | methanol | 200 ml | CO | CH4O
reactant | hydrochloric acid | 14.3 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 3,4-Dihydro-(2-chlorophenyl)-2-hydroxymethyl-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine | 6.2 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(N)(=O)=O)CO | C13H10ClN3O4S2
